US07834030B2
To a solution of 1 g of [[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol in 7 ml of dichloromethane was added 2.35 g of manganese(IV)oxide (activated with charcoal). The resulting mixture was heated under reflux for four hours. The cooled reaction mixture was filtered through a pad of celite. The filtrate was concentrated under reduced pressure and purified by column chromatography on silica gel (heptane 80/ethyl acetate 20) to give 0.53 g of 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carbaldehyde.

reactant | [2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol | FC(C1=CC=C(C=C1)C=1SC(=C(N1)CN1CCC(CC1)C(F)(F)F)CO)(F)F | C18H18F6N2OS
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
catalyst | manganese(IV)oxide | 2.35 g | [O-2].[Mn+4].[O-2]
product | 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carbaldehyde | 0.53 g | FC(C1=CC=C(C=C1)C=1SC(=C(N1)CN1CCC(CC1)C(F)(F)F)C=O)(F)F | C18H16F6N2OS
